US05962490
α-(2-benzo[b]thienyl)-3,4-dimethoxybenzyl alcohol was prepared in the same manner as described in Example 40A. Reaction of benzo[b]-thiophene (7.5 mmoles, 1.0 g), t-BuLi (1.7 m, 97 mmoles, 5.7 ml) and 3,4-dimethoxybenzaldehyde (8.9 mmoles, 1.5 g) in THF (20 ml) yielded, after flash chromatography using 30% ethyl aceteate/hexanes, 2.25 g (≈100%) of a white gummy solid.

reactant | benzo[b]-thiophene | 7.5 mmoles, 1.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | t-BuLi | 97 mmoles, 5.7 ml | [Li]C(C)(C)C
reactant | 3,4-dimethoxybenzaldehyde | 8.9 mmoles, 1.5 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | α-(2-benzo[b]thienyl)-3,4-dimethoxybenzyl alcohol | S1C2=C(C=C1C(C1=CC(=C(C=C1)OC)OC)O)C=CC=C2 | C17H16O3S
